US07071192B1
A mixture of 2-quinolinecarboxaldehyde (0.08 mol) and 4-methylbenzenesulfonic acid (0.25 g) in ethanol (100 ml) was stirred and refluxed for 48 hours and brought to room temperature. The reaction was carried out again using the same quantities. The mixtures were combined. The solvent was evaporated. The residue was taken up in CH2Cl2. The organic solution was washed with K2CO3 10% and with H2O, then dried (MgSO4), filtered and the solvent was evaporated. The product was used without further purification, yielding 32.5 g of 2-(diethoxymethyl)quinoline (interm. 30).

reactant | 2-quinolinecarboxaldehyde | 0.08 mol | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 4-methylbenzenesulfonic acid | 0.25 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(diethoxymethyl)quinoline | 32.5 g | C(C)OC(C1=NC2=CC=CC=C2C=C1)OCC | C14H17NO2
